US08624228B2
A reaction vessel was charged with 11.0 g of 2-acetyl-6-bromopyridine, 14.0 g of iodine, and 45 mL of pyridine, followed by heating and stirring at 100° C. for 5 hours. After cooling to room temperature, 100 mL of water was added thereto and purification by recrystallization was performed. The reaction product was vacuum-dried at 70° C. for 12 hours to obtain 13.8 g (yield, 62%) of [2-(6-bromopyridin-2-yl)oxoethyl]pyridinium iodide as a brown powder.

reactant | 2-acetyl-6-bromopyridine | 11.0 g | C(C)(=O)C1=NC(=CC=C1)Br | C7H6BrNO
reactant | iodine | 14.0 g | II | I2
reactant | pyridine | 45 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 100 mL | O | H2O
product | [2-(6-bromopyridin-2-yl)oxoethyl]pyridinium iodide | 13.8 g, 62% | [I-].BrC1=CC=CC(=N1)C(C[N+]1=CC=CC=C1)=O | InChI=1S/C12H10BrN2O.HI/c13-12-6-4-5-10(14-12)11(16)9-15-7-2-1-3-8-15;/h1-8H,9H2;1H/q+1;/p-1
